US06207678B1
Ethyl 2-(1-benzyl-4-(3,5-dimethylphenyl)piperidin-4-yl)ethanoate
A solution of potassium hydroxide (3.4 g) in water (20 ml) was added to a solution of ethyl 2-cyano-2-(1-benzyl-4-(3,5-dimethylphenyl)piperidin-4-yl)ethanoate (4.7 g) (see Preparation 8) in ethanol (24 ml) and the mixture microwaved at 345 kPa (100 psi)/100% power for 2.5 hours. The solvent was removed under reduced pressure and the residue azeotroped with toluene to remove any residual water. The residue was dissolved in ethanol (100 ml), cooled in an ice-bath and the solution saturated with hydrogen chloride gas. The mixture was left to stand at room temperature overnight before re-saturating the solution with hydrogen chloride gas and leaving to stand for a further 24 hours. The solution was filtered and the solvent removed from the filtrate under reduced pressure to give a residue which was dissolved in saturated aqueous sodium carbonate solution and extracted twice with dichloromethane. The organic phases were combined, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give a residue which was chromatographed on silica gel eluting with a solvent gradient of 97:3 changing to 90:10, by volume, dichloromethane:methanol to give the title compound (2.0 g) as an oil.

reactant | potassium hydroxide | 3.4 g | [OH-].[K+]
reactant | ethyl 2-cyano-2-(1-benzyl-4-(3,5-dimethylphenyl)piperidin-4-yl)ethanoate | 4.7 g | C(#N)C(C(=O)OCC)C1(CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC(=C1)C)C | C25H30N2O2
solvent | water | 20 ml | O | H2O
solvent | ethanol | 24 ml | C(C)O | C2H6O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | Ethyl 2-(1-benzyl-4-(3,5-dimethylphenyl)piperidin-4-yl)ethanoate | 2.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC(=C1)C)C)CC(=O)OCC | C24H31NO2
